US04755509
A solution of 46 g of ethyl 4-fluoro-2-nitrophenoxyacetate, prepared in Example 18, in 500 ml of methanol is hydrogenated under atmospheric pressure in the presence of Raney nickel. After absorption of the theoretical quantity of hydrogen, the catalyst is filtered off, the solution is concentrated in vacuo and the residue is taken up in either, from which it crystallizes. The crystals formed are filtered off, washed with ether and dried. 28 g of 6-fluoro-2H-1,4-benzoxazin-3(4H)-one are thus obtained in the form of crystals of melting point 206°-207° C.

reactant | ethyl 4-fluoro-2-nitrophenoxyacetate | 46 g | FC1=CC(=C(OCC(=O)OCC)C=C1)[N+](=O)[O-] | C10H10FNO5
solvent | methanol | 500 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 6-fluoro-2H-1,4-benzoxazin-3(4H)-one | 28 g | FC=1C=CC2=C(NC(CO2)=O)C1 | C8H6FNO2
